US05886182
Preparation of 2,6-dimethoxy-3-bromo-4-(diphenylphosphino)pyridine
To a magnetically stirred solution of 4.0 mL of approximatly 2.0M LDA solution (in hexane) (7.98 mmol) was added a solution of 2,6-dimethoxyl-3-bromopyridine (3.14 g, 6.14 mmol) in 10 mL of THF at -78° C. over a period 20 minutes while the internal temperature was kept below -78° C. To the resulting red-brown suspension was added a solution of chlorodiphenylphosphine (1.20 mL, 6.75 mmol) in the 10 mL of THF at -78° C. The reaction mixture was allowed to warm to ambient temperature overnight and was poured into 20 mL water. The organic product was extracted with dichloromethane (3×20 mL). The combined extract was dried with anhydrous magnesium sulfate and was concentrated in vaccuo to give a crude product which was recrystallized in methanol to give 2.34 g of pure product (95% theoretical yield).

reactant | LDA | 7.98 mmol, 2.0M | [Li+].CC(C)[N-]C(C)C
reactant | 2,6-dimethoxyl-3-bromopyridine | 6.14 mmol, 3.14 g | O(C)C1=NC(=CC=C1Br)OC | C7H8BrNO2
reactant | chlorodiphenylphosphine | 6.75 mmol, 1.20 mL | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | water | 20 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,6-dimethoxy-3-bromo-4-(diphenylphosphino)pyridine | 2.34 g, 95% | COC1=NC(=CC(=C1Br)P(C1=CC=CC=C1)C1=CC=CC=C1)OC | C19H17BrNO2P
